US07691879B2
6-methoxy-3-methyl-4-phenyl-1-(phenylsulfonyl)isoquinoline
To a solution of 1-chloro-6-methoxy-3-methyl-4-phenylisoquinoline (0.24 g) in 20 mL DMF was added benzenesulfinic acid, sodium salt dihydrate (0.60 g). The reaction was heated at 120 C overnight, then poured into water and extracted with EtOAc (3×). The combined organic solutions were washed with water (1×) and brine (1×), dried (Na2SO4) and concentrated. To a solution of the residue in 20 mL DMF was added benzenesulfinic acid, sodium salt dihydrate (0.74 g). The reaction was heated at 160 C overnight, then poured into water and extracted with EtOAc (3×). The combined organic solutions were washed with water (1×) and brine (1×), dried (Na2SO4) and concentrated. The residue was recrystallized from ethyl ether/hexanes, then further purified by flash chromatography (5% to 30% EtOAc/hexanes). A second recrystallization from ethyl ether/hexanes gave the titled compound.

reactant | 1-chloro-6-methoxy-3-methyl-4-phenylisoquinoline | 0.24 g | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C | C17H14ClNO
reactant | benzenesulfinic acid | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | sodium | 0.60 g | [Na] | Na
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-methoxy-3-methyl-4-phenyl-1-(phenylsulfonyl)isoquinoline | COC=1C=C2C(=C(N=C(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C23H19NO3S
